US09447090B2
To a solution of 850 mg of tert-butyl[2-(3-bromophenyl)propan-2-yl]carbamate in 8.5 ml of THF was added 4.1 ml of a 1.65 M n-butyllithium/hexane solution at −78° C., followed by stirring at the same temperature for 30 minutes. Then, 0.85 ml of methyl chloroformate was added dropwise thereto at −78° C., followed by stirring at the same temperature for 1 hour. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 199 mg of methyl 3-{2-[(tert-butoxycarbonyl)amino]propan-2-yl}benzoate.

reactant | tert-butyl[2-(3-bromophenyl)propan-2-yl]carbamate | 850 mg | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)Br)=O | C14H20BrNO2
reactant | n-butyllithium hexane | 1.65 M | C(CCC)[Li].CCCCCC
reactant | methyl chloroformate | 0.85 ml | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 8.5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-{2-[(tert-butoxycarbonyl)amino]propan-2-yl}benzoate | 199 mg | C(C)(C)(C)OC(=O)NC(C)(C)C=1C=C(C(=O)OC)C=CC1 | C16H23NO4
